US04665127
In 88 g of toluene was dissolved 38.3 g (0.1M) of tetra-n-butoxyzirconium, and 10.0 g (0.1M) of acetylacetone was gradually added to the resulting solution with stirring. An exothermic reaction of the mixture took place to give tri-n-butoxyzirconium acetylacetonato.

reactant | tetra-n-butoxyzirconium | 0.1M, 38.3 g | C(CCC)O[Zr](OCCCC)(OCCCC)OCCCC
reactant | acetylacetone | 0.1M, 10.0 g | C(C)(=O)CC(C)=O | C5H8O2
solvent | toluene | 88 g | C1(=CC=CC=C1)C | C7H8
product | tri-n-butoxyzirconium | C(CCC)O[Zr](OCCCC)OCCCC | InChI=1S/3C4H9O.Zr/c3*1-2-3-4-5;/h3*2-4H2,1H3;/q3*-1;+3
